US06387512B1
1. Methyl 9-dimethylamino-2-phenyl-2-(4-piperidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate
A solution of methyl 6-dimethylamino-4-hydroxy-2-naphthoate (5 mmol) and 1-phenyl-1-(4-piperidinophenyl)prop-2-yn-1-ol (5 mmol) in toluene (60 cm3) containing acidic alumina (Brockrmann 1) (5 g) was refluxed for 90 minutes. The cooled solution was filtered and the alumina residue washed well with ethyl acetate (5×40 cm3). Removal of the dried solvent gave a brown gum which was flash chromatographed using 30% ethyl acetate in hexane as the eluent to give an off-white solid. Recrystallisation from ethyl acetate and hexane gave the title compound (m.p. =155-156.5° C.).

reactant | methyl 6-dimethylamino-4-hydroxy-2-naphthoate | 5 mmol | CN(C=1C=C2C(=CC(=CC2=CC1)C(=O)OC)O)C | C14H15NO3
reactant | 1-phenyl-1-(4-piperidinophenyl)prop-2-yn-1-ol | 5 mmol | C1(=CC=CC=C1)C(C#C)(O)C1=CC=C(C=C1)N1CCCCC1 | C20H21NO
solvent | toluene | 60 cm3 | C1(=CC=CC=C1)C | C7H8
product | Methyl 9-dimethylamino-2-phenyl-2-(4-piperidinophenyl)-2H-naphtho[1,2-b]pyran-5-carboxylate | CN(C1=CC=C2C=C(C3=C(OC(C=C3)(C3=CC=C(C=C3)N3CCCCC3)C3=CC=CC=C3)C2=C1)C(=O)OC)C | C34H34N2O3
